US05070207
A. 3-Pentadecyl-1-(2-propynyloxy)benzene
To a solution of 24.4 g (80 mmol) of 3-pentadecylphenol, 4.93 g (88 mmol) of propargyl alcohol and 23.1 g (88 mmol) of triphenylphosphine cooled to 15° C. is added dropwise 15.3 g (13.9 ml, 88 mmol) of diethyl azodicarboxylate. The mixture is stirred for 4.5 hours and then is diluted with water and extracted with hexane (3 times). The hexane extracts are combined, washed with 1N sodium hydroxide and are dried over magnesium sulfate overnight. Filtration and evaporation gives crude oil which is subjected to flash chromatography using hexane as eluting solvent. The appropriate fractions are combined to give the title compound as an oil which solidifies upon standing: mp. 26°-27° C. The product is used without further characterization.

reactant | 3-pentadecylphenol | 80 mmol, 24.4 g | C(CCCCCCCCCCCCCC)C=1C=C(C=CC1)O | C21H36O
reactant | propargyl alcohol | 88 mmol, 4.93 g | C(C#C)O | C3H4O
reactant | triphenylphosphine | 88 mmol, 23.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 88 mmol, 13.9 ml, 15.3 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 3-Pentadecyl-1-(2-propynyloxy)benzene | C(CCCCCCCCCCCCCC)C=1C=C(C=CC1)OCC#C | C24H38O
